US07632838B2
2,6-dimethylpiperazine (291 mg, 2.55 mmol) and 2,3-dichloropyridine (377.4 mg, 2.55 mmol) were charged to a microwave vial, dissolved in DMF (0.25 mL) and added with diisopropylethylamine (1.11 mL, 6.38 mmol). The reaction mixture was irradiated at 165° C. for 30 minutes. The reaction was complete as determined by TLC. After solvent removal the crud product was purified via flush column chromatography to afford 1-(3-chloropyridin-2-yl)-3,5-dimethylpiperazine in 64.4% yield (370 mg).

reactant | 2,6-dimethylpiperazine | 2.55 mmol, 291 mg | CC1NC(CNC1)C | C6H14N2
reactant | 2,3-dichloropyridine | 2.55 mmol, 377.4 mg | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | diisopropylethylamine | 6.38 mmol, 1.11 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
product | 1-(3-chloropyridin-2-yl)-3,5-dimethylpiperazine | 64.4% yield | ClC=1C(=NC=CC1)N1CC(NC(C1)C)C | C11H16ClN3
